****************************************
*													*
*			SERIES.CIR							*
*********5 Series X 2 Parallel*************
.include cell_2.lib
.option temp=30
**********First Column************
xcell_01_02 02 01 0201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_02_03 03 02 0302 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_03_04 04 03 0403 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_04_05 05 04 0504 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_05_00 gnd 05 0605 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000

**********Secondd Column************
xcell_01_12 12 01 1201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_12_13 13 12 1312 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_13_14 14 13 1413 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_14_15 15 14 1514 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_15_00 0  15 0015 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000



vbias 01 0 dc 0
virrad_01_02  0201  02 dc 900
virrad_02_03  0302  03 dc 900
virrad_03_04  0403  04 dc 900
virrad_04_05  0504  05 dc 900
virrad_05_06  0605  06 dc 900

virrad_11_12  1201  12 dc 900
virrad_12_13  1312  13 dc 900
virrad_13_14  1413  14 dc 900
virrad_14_15  1514  15 dc 900
virrad_15_00  0015  0  dc 900


.plot dc i(vbias)

.dc vbias 0 5.25 0.01
.probe
.end
